US07166587B2
Ethyl-carbamic acid (S)-1-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-ethyl ester
A solution of (S)-2-hydroxy-N-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-propionamide (30 mg, 0.09 mmol), 4-nitrophenyl chloroformate (19 mg, 0.09 mmol), and triethylamine (20 microliter) in toluol (1 ml) were shaken overnight at r.t. Ethylamine hydrochloride (7.9 mg, 0.1 mmol) was added and the mixture was shaken again overnight at r.t. The solvent was evaporated and the residue was dissolved in DMF (0.5 ml). The title compound, MS: m/e=382.3 (M+H+), (11 mg, 30%) was isolated from this mixture by automated, preparative HPLC (YMC CombiPrep C18 column 50×20 mm, solvent gradient 5–95% CH3CN in 0.1% TFA(aq) over 6.0 min, λ=230 nm, flow rate 30 ml/min).

reactant | (S)-2-hydroxy-N-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-propionamide | 0.09 mmol, 30 mg | O[C@H](C(=O)NC1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2)C | C18H18N2O3
reactant | 4-nitrophenyl chloroformate | 0.09 mmol, 19 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | triethylamine | 20 microliter | C(C)N(CC)CC | C6H15N
reactant | Ethylamine hydrochloride | 0.1 mmol, 7.9 mg | Cl.C(C)N
solvent | toluol | 1 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl-carbamic acid (S)-1-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-ethyl ester | CN1C2=C(C3=C(C(C1=O)NC(=O)[C@H](C)OC(NCC)=O)C=CC=C3)C=CC=C2 | C21H23N3O4
